US04209616
A solution of t-butyl 3-acetoxymethyl-7β-[2-dichloroacetoxyimino-(thien-2-yl)acetamido]ceph-3-em-4-carboxylate (syn-isomer) in anisole (20 ml.) was treated with trifluoroacetic acid (100 ml.). After 5 minutes at 20° the solution was concentrated under reduced pressure at 35°. Ethyl acetate was added and the solution was again concentrated, whereupon a solid separated out. Ethyl acetate was evaporated from the residue three more times and the solid was collected and washed with ether to give 3-acetoxymethyl-7β-[2-dichloroacetoxyimino-2-(thien-2-yl)acetamido]ceph-3-em-4-carboxylic acid (syn-isomer) (37 g., 53%) λmax. (ethanol) 263 nm (ε14,800), τ(DMSO-d6) values include -0.19 (doublet, J 8 Hz; NH), 3.02 (singlet, CHCl2), 7.94 (singlet, OCOCH3).

reactant | t-butyl 3-acetoxymethyl-7β-[2-dichloroacetoxyimino-(thien-2-yl)acetamido]ceph-3-em-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(C(=NOC(C(Cl)Cl)=O)C=2SC=CC2)=O)=O | C22H23Cl2N3O8S2
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 20 ml | C1(=CC=CC=C1)OC | C7H8O
product | 3-acetoxymethyl-7β-[2-dichloroacetoxyimino-2-(thien-2-yl)acetamido]ceph-3-em-4-carboxylic acid | 37 g, 53% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C=2SC=CC2)=NOC(C(Cl)Cl)=O)=O)=O | C18H15Cl2N3O8S2
